US08754079B2
4-[2-(trans-3-Acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (4-dimethylamino-but-2-ynyl)-amide
Prepared analogously to 35.3 from 0.080 g 4-[2-(trans-3-acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (cpd. 35.2) and 0.045 g 4-(dimethylamino)-but-2-ynylamin*2HCl.

reactant | 4-[2-(trans-3-acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.080 g | C(C)(=O)N[C@@H]1C[C@H](C1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C20H19FN4O4S
reactant | 4-(dimethylamino)-but-2-ynylamin | 0.045 g | CN(CC#CCN)C | C6H12N2
product | 4-[2-(trans-3-Acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (4-dimethylamino-but-2-ynyl)-amide | CN(CC#CCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](C2)NC(C)=O)S1)C)C | C26H29FN6O3S
